US05656752
42 g (0.2 mol) of 1,4-dihydroxy-2,3-dicyanonaphthalene and 200 ml of N,N-dimethylformamide (DMF) were introduced at room temperature as the initial charge. 55.4 g (0.44 mol) of dimethyl sulfate and 60.8 g (0.44 mol) of potassium carbonate were added. The batch was slowly heated to 100° C. and stirred at that temperature for 8 h. It was then poured onto water, and the resulting precipitate was filtered off with suction, washed With water and dried to leave 30 g of 1,4-dimethoxy-2,3-dicyanonaphthalene (theory: 64%; melting point: 190° C.).

reactant | 1,4-dihydroxy-2,3-dicyanonaphthalene | 0.2 mol, 42 g | OC1=C(C(=C(C2=CC=CC=C12)O)C#N)C#N | C12H6N2O2
reactant | dimethyl sulfate | 0.44 mol, 55.4 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | potassium carbonate | 0.44 mol, 60.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 1,4-dimethoxy-2,3-dicyanonaphthalene | 30 g, 64% | COC1=C(C(=C(C2=CC=CC=C12)OC)C#N)C#N | C14H10N2O2
